US05767285
A solution of 500 mg (2.07 mmol) of 2-acetylphenothiazine in 8 mL of tetrahydrofuran is cooled to -78° C. and 4.14 mL (2.07 mmol) of a 0.5M solution of potassium bis(trimethylsilyl)amide in toluene is added. After five minutes, a solution of [(6-bromohexyl)oxy]-(1,1-dimethylethyl)dimethyl silane in 2 mL of tetrahydrofuran is added and the reaction is allowed to warm to room temperature. The mixture is diluted with 25 mL of ethyl acetate and washed with 10% sodium bisulfate solution and saturated sodium chloride solution, then dried over magnesium sulfate and concentrated in vacuo to give a dark colored residue. Flash chromatography (3:1 hexane/ethyl acetate) provides 318 mg (33%) of 1-[10-[6-[[(1,1-dimethylethyl)dimethylsilyl]oxy]hexyl]-10H-phenothiazin-2-yl]ethanone as a dark colored oil. The 1H NMR (300 MHz, CDCl3) is consistent with the desired product; IR (neat) 1680, 1600, 1560 cm-1 ; MS m/e calculated for C26H37NO2SSi: 455.2314, found 455.2312.

reactant | 2-acetylphenothiazine | 2.07 mmol, 500 mg | C(C)(=O)C1=CC=2NC3=CC=CC=C3SC2C=C1 | C14H11NOS
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | [(6-bromohexyl)oxy]-(1,1-dimethylethyl)dimethyl silane | BrCCCCCCO[Si](C)(C)C(C)(C)C | C12H27BrOSi
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 1-[10-[6-[[(1,1-dimethylethyl)dimethylsilyl]oxy]hexyl]-10H-phenothiazin-2-yl]ethanone | 318 mg, 33% | CC(C)(C)[Si](OCCCCCCN1C2=CC=CC=C2SC=2C=CC(=CC12)C(C)=O)(C)C | C26H37NO2SSi
